US05618819
6-(1-PHENYL-1-HYDROXYMETHYL)-3-METHYLOXAZOLO[4,5-b]PYRIDIN-2(3H)-ONE
Add 42 mg (1.1 mmol) of sodium borohydride to a previously prepared solution of 254 mg (1 mmol) of 6-benzoyl-3-methyloxazolo[4,5-b]pyridin-2(3H)-one in 20 ml of anhydrous methanol. Concentrate the reaction mixture to dryness under reduced pressure after stirring for 5 hours at room temperature, then take up the residue in water and isolate by filtration the resulting product; the title product is obtained in a yield of 84%.

reactant | sodium borohydride | 1.1 mmol, 42 mg | [BH4-].[Na+]
reactant | 6-benzoyl-3-methyloxazolo[4,5-b]pyridin-2(3H)-one | 1 mmol, 254 mg | C(C1=CC=CC=C1)(=O)C=1C=C2C(=NC1)N(C(O2)=O)C | C14H10N2O3
solvent | methanol | 20 ml | CO | CH4O
product | 6-(1-PHENYL-1-HYDROXYMETHYL)-3-METHYLOXAZOLO[4,5-b]PYRIDIN-2(3H)-ONE | yield of 84% | C1(=CC=CC=C1)C(O)C=1C=C2C(=NC1)N(C(O2)=O)C | C14H12N2O3
